US07449466B2
A mixture of 1-(4-methoxy-3-methylphenyl)-4-phenethyl-piperazine (327 mg) and pyridinium chloride (731 mg) was heated to 210° C. and stirred for an hour. The reaction liquid was diluted with 1 mL of toluene, and to which saturated saline solution was added. Further adding saturated aqueous sodium hydrogencarbonate solution to render the system weakly alkaline, the product was extracted with ethyl acetate-tetrahydrofuran (1:1). The organic layer was washed with saturated saline solution and dried over anhydrous magnesium sulfate. The solvent was distilled off and the remaining crude product was purified on TLC (developer, chloroform: methanol=15:1) to provide 2-methyl-4-(4-phenethylpiperazin-1-yl)phenol (141 mg).

reactant | 1-(4-methoxy-3-methylphenyl)-4-phenethyl-piperazine | 327 mg | COC1=C(C=C(C=C1)N1CCN(CC1)CCC1=CC=CC=C1)C | C20H26N2O
reactant | pyridinium chloride | 731 mg | [Cl-].[NH+]1=CC=CC=C1
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | toluene | 1 mL | C1(=CC=CC=C1)C | C7H8
product | 2-methyl-4-(4-phenethylpiperazin-1-yl)phenol | 141 mg | CC1=C(C=CC(=C1)N1CCN(CC1)CCC1=CC=CC=C1)O | C19H24N2O
